* capdelay.hsp

* Written 10/3/96 by David Harris  harrisd@leland.stanford.edu
* This spice deck extracts the capacitance per micron
* of transistor width for an inverter.

* The deck runs an optimization to find the value of a linear
* capacitor such that the delay of an inverter driving the
* linear capacitor equals the delay of the inverter driving
* a load inverter.

***********************************************************************
* Set supply and library
***********************************************************************
* The characterization script replaces !SUP! with the
* user-specified supply and !LIB! with the user-specified
* library.

.param Sup=!SUP!        * Must set before calling .lib
.temp !TEMP!            * Override temperature by setting it before .lib
.protect                * Don't print the contents of library
.lib '!LIB!' !CORNER!   * Load the library for process corner
.unprotect              * Resume printing SPICE deck
.param Supply=!VOLT!    * Override voltage by setting it after .lib
.opt scale=!LAMBDA!     * Set lambda
.option accurate

* Save results of simulation for viewing
.options post

***********************************************************************
* Define power supply
***********************************************************************

.global Vdd     Gnd
Vdd     Vdd     Gnd     'Supply'    * Supply is set by .lib call

***********************************************************************
* Define Subcircuits
***********************************************************************

.subckt inv In  Out
m1  Out In  Gnd Gnd nmos    l=2 w=16 ad=0 as=0 pd=0 ps=0
m2  Out In  Vdd Vdd pmos    l=2 w=32 ad=0 as=0 pd=0 ps=0
.ends

***********************************************************************
* Top level simulation netlist
***********************************************************************

x1 	In	Inb	inv			* set appropriate slope
x2	Inb	Inv	inv	M=4		* help set slop
xload	Inv	Dum	inv	M=8		* drive real load
xdummy	Dum	DumDum	inv	M=32		* real load
xdummy2 DumDum	Dum2	inv	M=128		* load on load (important!)
x3	Inv	Cap	inv	M=8		* drive linear capacitor
c1	Cap	Gnd	'CperMicron*32*(16+32)*!LAMBDA!/1u' * linear capacitor

***********************************************************************
* Stimulus
***********************************************************************

* Format of pulse input:
* pulse v_initial v_final t_delay t_rise t_fall t_pulsewidth t_period

Vin     In      Gnd     pulse 0 'Supply' 1ns 20ps 20ps 4ns 10ns

***********************************************************************
* Measurements
***********************************************************************

* Measure delay through inverters x2 and x3.
* Minimize this delay to find proper CperMicron

* Measure the rise and fall delays of the two inverters
.measure invR
+       TRIG v(Inv)  VAL='Supply/2' FALL=1 
+       TARG v(Dum)  VAL='Supply/2' RISE=1
.measure  capR
+       TRIG v(Inv)  VAL='Supply/2' FALL=1 
+       TARG v(Cap)  VAL='Supply/2' RISE=1
.measure invF
+       TRIG v(InV)  VAL='Supply/2' RISE=1
+       TARG v(Dum)  VAL='Supply/2' FALL=1 
.measure  capF
+       TRIG v(Inv)  VAL='Supply/2' RISE=1
+       TARG v(Cap)  VAL='Supply/2' FALL=1 

* Compute the mismatch between the rise and fall times
.measure errorR param='invR - capR' goal=0
.measure errorF param='invF - capF' goal=0

* Optimize to find the capacitance per micron
* optrange is of the form (guess, min, max)
* a narrow range and good guess make the simulation faster

.param CperMicron=optrange(2f, 0.2f, 3.0f) 
.model optmod opt itropt=30 
.tran 1ps 12ns SWEEP OPTIMIZE=optrange RESULTS=errorR,errorF MODEL=optmod

***********************************************************************
* End of Deck
***********************************************************************
.measure CperMic param = 'CperMicron'

.end
