* gatedelay.hsp

* Written 10/3/96 by David Harris  harrisd@leland.stanford.edu
* This spice deck measures the delay of a 2-input gate
* for many possible combinations:
*
* Process Corner: 	!CORNER! (TT, SS, FF)
* Gate:			!GATE! (nand2, nor2)
* Outer input:		!OUTER! (Inb, Gnd, Vdd)
* Inner input:		!INNER! (Inb, Gnd, Vdd)

* The deck uses a first inverter to shape the input slope, a gate
* to measure, a third inverter as a load, and a fourth
* inverter as load on the load.

***********************************************************************
* Set supply and library
***********************************************************************
* The characterization script replaces !SUP! with the
* user-specified supply and !LIB! with the user-specified
* library.

.param Sup=!SUP!        * Must set before calling .lib
.temp !TEMP!            * Override temperature by setting it before .lib
.protect                * Don't print the contents of library
.lib '!LIB!' !CORNER!   * Load the library for process corner
.unprotect              * Resume printing SPICE deck
.param Supply=!VOLT!    * Override voltage by setting it after .lib
.opt scale=!LAMBDA!     * Set lambda
.option accurate

* Save results of simulation for viewing
.options post

***********************************************************************
* Define power supply
***********************************************************************

.global Vdd 	Gnd
Vdd	Vdd	Gnd	'Supply'	* Supply is set by .lib call

***********************************************************************
* Define Subcircuits
***********************************************************************

.subckt	inv In Out N=16 P=32 
* Assumes 5 lambda of diffusion on the source/drain
m1	Out In Gnd Gnd	nmos	l=2 w=N 	as='5*N' ad='5*N'
+						ps='2*N+10' pd='2*N+10'
m2	Out In Vdd Vdd	pmos	l=2 w=P		as='5*P' ad='5*P'
+					 	ps='2*P+10' pd='2*P+10'
.ends

.subckt	nand2 InOuter InInner Out N='48/2' P='48/2'
m1	Mid InOuter Gnd Gnd	nmos l=2 w=N 	as='5*N' ad='1.5*N'
+						ps='2*N+10' pd='N+3'
m2	Out InInner Mid Gnd	nmos l=2 w=N 	as='1.5*N' ad='5*N'
+						ps='N+3' pd='2*N+10'
m3	Out InOuter Vdd Vdd	pmos l=2 w=P	as='5*P' ad='3*P'
+					 	ps='2*P+10' pd='P+6'
m4	Out InInner Vdd Vdd	pmos l=2 w=P	as='5*P' ad='3*P'
+					 	ps='2*P+10' pd='P+6'
.ends

.subckt nor2 InOuter InInner Out N='48/5' P='48*4/5'
m1      Out InOuter Gnd Gnd     nmos l=2 w=N   as='5*N' ad='3*N'
+                                               ps='2*N+10' pd='N+6'
m2      Out InInner Gnd Gnd     nmos l=2 w=N   as='5*N' ad='3*N'
+                                               ps='2*N+10' pd='N+6'
m3      Mid InOuter Vdd Vdd     pmos l=2 w=P   as='5*P' ad='1.5*P'
+                                               ps='2*P+10' pd='P+3'
m4      Out InInner Mid Vdd     pmos l=2 w=P   as='1.5*P' ad='5*P'
+                                               ps='P+3' pd='2*P+10'
.ends

***********************************************************************
* Top level simulation netlist
***********************************************************************

x0	In	In1	inv	
x1 	In1	Inb	inv	M=4		* set appropriate slope
x2	!OUTER! !INNER!	Inv !GATE!	M=16	* gate to measure
x3	Inv	Out3	inv	M=64		* load
x4	Out3	Out4	inv	M=128 		* load on load

***********************************************************************
* Stimulus
***********************************************************************

* Format of pulse input:
* pulse v_initial v_final t_delay t_rise t_fall t_pulsewidth t_period

Vin     In      Gnd     pulse 0 'Supply' 1ns 20ps 20ps 4ns 10ns

***********************************************************************
* Measurements
***********************************************************************

* Measure delay through gate x2

.measure delayR
+       TRIG v(Inb)  VAL='Supply/2' FALL=1 
+       TARG v(Inv)  VAL='Supply/2' RISE=1
.measure delayF
+       TRIG v(Inb)  VAL='Supply/2' RISE=1
+       TARG v(Inv)  VAL='Supply/2' FALL=1 

* Compute the average delay
.measure delayA param='(delayR + delayF)/2'

.tran 0.1ps 12ns

***********************************************************************
* End of Deck
***********************************************************************
.end

